US04838924
2,3-Dihydro-2-methoxy-7-(4-nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran (an imtermediate of compound No. 194)
A mixture of the 7-(4-nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran obtained in Referential Example 43, 66 ml of methanol, 0.7 g of Amberlyst-15 and 6 ml of toluene was stirred for 4.5 hours, and Amberlyst-15 was separated by filtration. The filtrate was concentrated, and 30 ml of methanol was added. Crystals that precipitated were collected by filtration, washed with 50 ml of methanol, and dried to give 6.7 g (90%) of the desired product as a white powder (melting point 125° C.).

reactant | 7-(4-nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran | [N+](=O)([O-])C1=CC=C(OC2=CC3=C(C(C=C(O3)C)(C)C)C=C2)C=C1 | C18H17NO4
reactant | methanol | 66 ml | CO | CH4O
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-2-methoxy-7-(4-nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran | 6.7 g, 90% | COC1(OC2=C(C(C1)(C)C)C=CC(=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C | C19H21NO5
